US07012075B2
Methanesulfonic acid (16 μL, 0.24 mmol) was added dropwise over 5 min to a stirred solution of N1-(cyanomethyl)-N2-[4-(4-(tert-butoxycarbonyl)piperazin-1-ylphenyl)isothiazol-5-yl]leucinamide (63 mg, 0.12 mmol) in THF (0.21 mL) at rt. Stirring was continued for 1 h before additional methanesulfonic acid (16 μL, 0.24 mmol) was introduced in the same manner with stirring for 1 h. A final portion of methanesulfonic acid (8 μL, 0.12 mmol) was added dropwise over 3 min and the mixture was stirred at rt for 8 h. The reaction was quenched by the careful addition of an excess of saturated sodium bicarbonate solution. Extraction with ethyl acetate (3×), drying of the combined organics (Na2SO4) and concentration in vacuo gave 48 mg of N1-(cyanomethyl)-N2-[4-(4-piperazin-1-ylphenyl)isothiazol-5-yl]leucinamide as a tan foam. MS (+ESI): 413.2 [M+1]+.

reactant | Methanesulfonic acid | 0.24 mmol, 16 μL | CS(=O)(=O)O | CH4O3S
reactant | N1-(cyanomethyl)-N2-[4-(4-(tert-butoxycarbonyl)piperazin-1-ylphenyl)isothiazol-5-yl]leucinamide | 0.12 mmol, 63 mg | C(#N)CNC([C@@H](NC1=C(C=NS1)C1=C(C=CC=C1)N1CCN(CC1)C(=O)OC(C)(C)C)CC(C)C)=O | C26H36N6O3S
reactant | methanesulfonic acid | 0.24 mmol, 16 μL | CS(=O)(=O)O | CH4O3S
reactant | methanesulfonic acid | 0.12 mmol, 8 μL | CS(=O)(=O)O | CH4O3S
reactant | THF | 0.21 mL | C1CCOC1 | C4H8O
product | N1-(cyanomethyl)-N2-[4-(4-piperazin-1-ylphenyl)isothiazol-5-yl]leucinamide | 48 mg | C(#N)CNC([C@@H](NC1=C(C=NS1)C1=CC=C(C=C1)N1CCNCC1)CC(C)C)=O | C21H28N6OS
